US05225431
Preparation of 1-Benzyl-4-(4-nitrobenzyl)imidazolidin-2,5-dione
Benzyl isocyanate (3.2 g, Aldrich) was added dropwise at 0° C. over 20 minutes to a stirred mixture of p-nitrophenylalanine (4.2 g, Fluka) and KOH (1.3 g) in water (40 ml). When addition was complete, the mixture was stirred at 60°-70° C. for 2 hours, then cooled, filtered, and the filtrate treated with c.HCl. The resulting white solid was filtered off, washed with ice-water, dried in vacuo, then suspended in 50% aqu. HCl (20 ml) and refluxed for 2 hours. The suspension was cooled, diluted with water, filtered, and the residue dried in vacuo to give the desired product (5.7 g).

reactant | Benzyl isocyanate | 3.2 g | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | p-nitrophenylalanine | 4.2 g | [N+](=O)([O-])C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H10N2O4
reactant | KOH | 1.3 g | [OH-].[K+]
solvent | water | 40 ml | O | H2O
product | 1-Benzyl-4-(4-nitrobenzyl)imidazolidin-2,5-dione | 5.7 g | C(C1=CC=CC=C1)N1C(NC(C1=O)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C17H15N3O4
